US09163019B2
a1.1) Quinolin-2-yl-acetic acid ethyl ester
To a suspension of vacuum dried Zn dust (6.0 g, 93.8 mmol) in dry THF (100 ml) was added TMSCl (0.5 ml) dropwise over 5 min under N2 atmosphere and under stirring. The mixture was stirred for 30 min and warmed to 45° C. Ethyl bromoacetate (5.2 ml, 46.9 mmol) was added dropwise via a syringe. After addition, the mixture was stirred at the same temperature for 1 h. After sedation at r. t. for 2 h, a clear orange solution was formed. The orange solution (50 ml) was carefully sucked into a syringe through a long needle and added to a mixture of 2-bromoquinoline (2.0 g, 9.6 mmol) and PdCl2(dppf) (200 mg, 0.27 mmol) in a three-neck flask. The mixture was refluxed under N2 for 3 h. The reaction was monitored with LC-MS. Ethyl acetate (200 ml) was added to dilute the mixture and water (50 ml) was added to quench the reaction. The mixture was filtered through a celite pad. The filtration was partitioned between brine and ethyl acetate. The organic layer was separated, washed with brine (100 ml), dried over sodium sulfate and concentrated. The residue was purified with silica column (PE/EA=3: 1) to give the title compound as orange oil (1.0 g, 48%). LC-MS (ESI+): m/e 216 (M+H)+, Rt: 0.62 min.

reactant | TMSCl | 0.5 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | Ethyl bromoacetate | 46.9 mmol, 5.2 ml | BrCC(=O)OCC | C4H7BrO2
reactant | 2-bromoquinoline | 9.6 mmol, 2.0 g | BrC1=NC2=CC=CC=C2C=C1 | C9H6BrN
reactant | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Zn | 93.8 mmol, 6.0 g | [Zn] | Zn
catalyst | PdCl2(dppf) | 0.27 mmol, 200 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 50 ml | O | H2O
product | Quinolin-2-yl-acetic acid ethyl ester | 1.0 g, 48% | C(C)OC(CC1=NC2=CC=CC=C2C=C1)=O | C13H13NO2
